US04851418
[1-Methyl-2-[[(3-methyl-1-(phenylmethyl)-3-pyrrolidinyl)methyl]amino]-2-oxoethyl]carbamic acid, 1,1-dimethylethyl ester (mixture of isomers)
A solution of 14.1 g (75 mmole) of t-butoxycarbonyl-L-alanine in 135 ml of dry acetonitrile was treated with 12.5 g (77 mmol) of 1,1'-carbonyldiimidazole. After stirring at room temperature for one hour and gas evolution had ceased, the reaction mixture was heated at 60° for one hour cooled to room temperature and treated with 14.2 g (70 mmol) of 3-methyl-1-(phenylmethyl)-3-pyrrolidinemethanamine. The reaction mixture was stirred at room temperature for 18 hours and the solvent was removed in vacuo. The residue was partitioned between ethyl acetate/water and the organic layer was separated, washed with water, dried (MgSO4), and evaporated in vacuo to give 23.9 g of the title compound.

reactant | t-butoxycarbonyl-L-alanine | 75 mmole, 14.1 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
reactant | 1,1'-carbonyldiimidazole | 77 mmol, 12.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-methyl-1-(phenylmethyl)-3-pyrrolidinemethanamine | 70 mmol, 14.2 g | CC1(CN(CC1)CC1=CC=CC=C1)CN | C13H20N2
solvent | acetonitrile | 135 ml | C(C)#N | C2H3N
product | [1-Methyl-2-[[(3-methyl-1-(phenylmethyl)-3-pyrrolidinyl)methyl]amino]-2-oxoethyl]carbamic acid, 1,1-dimethylethyl ester | 23.9 g | CC(C(=O)NCC1(CN(CC1)CC1=CC=CC=C1)C)NC(OC(C)(C)C)=O | C21H33N3O3
